US05932606
Step B: 5-Azidomethyl-4-methyl-1-tritylimidazole
To a solution of 1-trityl-4-methyl-5-imidazolemethanol (3.7 g, 10 mmol) and DPPA (3.0 ml, 13 mmol) in THF (100 ml) was added DBU (2.0 ml, 13 mmol). The resulting solution was heated to 60° C. for 2 h. The solvents were removed in vacuo and the residue purified by flash chromatography (2:1 hexane/ethyl acetate) to give of the title compound. 1H NMR (CDCl3) d 1.42 (s, 3 H), 4.22 (s, 2 H), 7.10-7.35 (m, 16 H).

reactant | 1-trityl-4-methyl-5-imidazolemethanol | 10 mmol, 3.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1CO)C | C24H22N2O
reactant | DPPA | 13 mmol, 3.0 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 13 mmol, 2.0 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-Azidomethyl-4-methyl-1-tritylimidazole | N(=[N+]=[N-])CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H21N5
